US07439257B2
1.2. ethyl {[({2-[(4-chlorophenyl)oxy]ethyl}-amino)carbonyl]oxy}acetate
A solution of 0.6 g (3.5 mmol) of [(4-chloro-phenyl)oxy]ethylamine (Chim. Ther. 1973, 8, 259-270) and 1.3 g (5.8 mmol) of ethyl [(phenyloxy-carbonyl)oxy]acetate, prepared in Step 1.1., in 30 ml of toluene is heated at 60° C. overnight. It is evaporated to dryness and the product is purified by chromatography on silica gel, eluting with a 30/70 mixture of ethyl acetate and cyclohexane. This gives 0.7 g of oily product, containing ˜10% of cyclized oxazolidine dione product, used as it is in the following step.

reactant | [(4-chloro-phenyl)oxy]ethylamine | 3.5 mmol, 0.6 g | ClC1=CC=C(C=C1)OCCN | C8H10ClNO
reactant | ethyl [(phenyloxy-carbonyl)oxy]acetate | 5.8 mmol, 1.3 g | C1(=CC=CC=C1)OC(=O)OCC(=O)OCC | C11H12O5
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl {[({2-[(4-chlorophenyl)oxy]ethyl}-amino)carbonyl]oxy}acetate | ClC1=CC=C(C=C1)OCCNC(=O)OCC(=O)OCC | C13H16ClNO5
